US05318989
A 1.0M solution of lithium bis(trimethyl)silylamide in THF (28.7 mL, 28.77 mmol) was added to 30 mL of dry THF stirring under N2, and the solution was cooled to -10° C. A solution of 1.54 g (13.7 mmol) 1,2-cyclohexanedione in 7 mL of THF was added in a slow stream via syringe. The reaction mixture turned darkreddish brown. The reaction mixture was stirred for 15 min at -10° C. and then cooled to -50° C. A solution of 4-methylphenyl 4-methyl-benzenethiosulfonate (3.5 g, 14.2 mmol) in 10 mL of THF at -50° C. was added in one portion via syringe. The reaction mixture was stirred for 2 h at -50° C. and allowed to warm at ambient temperature until approximately 0° C., and then 100 mL of 0.1 N HCl was added. The mixture was extracted with 300 mL and then 100 mL of diethyl ether, and the combined organic extracts were dried over anhydrous sodium sulfate. Concentration in vacuo provided a yellow solid which was purified by flash chromatography over silica gel using CH2Cl2, 10% EtOAc/Hexane, and then 3% MeOH/CH2Cl2 as eluent. The desired product, 2-hydroxy-3-[(4-methylphenyl)thio]-2-cyclohexenone [Compound Iy], was isolated as a white solid (1.939 g, 60%).

reactant | 1,2-cyclohexanedione | 13.7 mmol, 1.54 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | 4-methylphenyl 4-methyl-benzenethiosulfonate | 14.2 mmol, 3.5 g | CC1=CC=C(C=C1)S(=O)(OC1=CC=C(C=C1)C)=S | C14H14O2S2
reactant | HCl | 0.1 N, 100 mL | Cl | ClH
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 28.77 mmol, 28.7 mL | C1CCOC1 | C4H8O
product | 2-hydroxy-3-[(4-methylphenyl)thio]-2-cyclohexenone | OC=1C(CCCC1SC1=CC=C(C=C1)C)=O | C13H14O2S
